US08865913B2
A 250 L reactor was charged with 10.22 kg of purified (R)-5-(2-(benzylamino)ethyl)-1-(6,8-difluorochroman-3-yl)-1H-imidazole-2(3H)-thione hydrochloride, 113.0 kg of Methanol was added and the reaction mixture was heated to 47.3° C. with stirring at 120 rpm. A resulting clear brown solution was filtered warm through a GAF filter into a 200 L drum and the filter was flushed with 8.0 kg of Methanol. The reactor was cleaned with 45.0 kg of Methanol, the filtered Methanol solution was transferred from the 200 L drum into the 250 L reactor and the solution was heated to 46.3° C. with stirring at 120 rpm. At this temperature 23.5 kg of water was added during 10 min, the solution was heated to 64.3° C. during 60 min (reflux) and 26.1 kg of a solution of 1.2 kg sodium hydroxide in 30.6 kg water was added at 64.5-65.3° C. during 90 min (reflux; exotherm). The resulting beige suspension was stirred at 65.2-66.9° C. during 45 min, cooled 58-60° C. and sampled for pH-control (pH 11). The suspension was cooled to 24.8° C. during 1 h 55 min, stirred at this temperature during 13 h. The suspension was transferred into the centrifuge (filter cloth type: Lanz Anliker PP20) and centrifuged in one portion. The 250 L reactor was charged with 20.0 kg water and 16.0 kg of Methanol and stirred at 23.0° C. during 10 min. The filter cake was washed with the methanol mixture, the wet product (8.84 kg) was transferred to the tray dryer and dried at 52.2° C. and 290-1 mbar during 68 h 44 min to give 8.45 kg of (R)-5-(2-(benzylamino)ethyl)-1-(6,8-difluorochroman-3-yl)-1H-imidazole-2(3H)-thione.

reactant | (R)-5-(2-(benzylamino)ethyl)-1-(6,8-difluorochroman-3-yl)-1H-imidazole-2(3H)-thione hydrochloride | 10.22 kg | Cl.C(C1=CC=CC=C1)NCCC1=CNC(N1[C@H]1COC2=C(C=C(C=C2C1)F)F)=S
solvent | Methanol | 113.0 kg | CO | CH4O
product | (R)-5-(2-(benzylamino)ethyl)-1-(6,8-difluorochroman-3-yl)-1H-imidazole-2(3H)-thione | 8.45 kg | C(C1=CC=CC=C1)NCCC1=CNC(N1[C@H]1COC2=C(C=C(C=C2C1)F)F)=S | C21H21F2N3OS
